US04496551
Preparation of Chloromethyl(2,6-dimethoxyphenyl)dimethylsilane
A solution of 25.0 g (0.181 mol) of 1,3-dimethoxybenzene in 250 ml of tetrahydrofuran was stirred at room temperature under nitrogen while 125 ml (0.200 mol) of 1.6 molar n-butyllithium in hexane was added dropwise over 30 minutes. The resulting mixture was refluxed 1.5 hour, giving an orange-brown solution that was cooled to 5° and stirred while 27 ml (29.4 g, 0.205 mol) of chloro(chloromethyl)dimethylsilane was added dropwise over 15 minutes. The resulting white suspension was allowed to warm to room temperature, stirred there 1 hour, diluted with ethyl acetate, poured into water, and extracted with ether. The organic layers were washed with brine, dried over magnesium sulfate, and distilled to give 37.0 g (84%) of the title compound as a colorless liquid: bp 98°-110° (0.1 mm); nmr (CDCl3) 0.4 (6H, s), 3.1 (2H, s), 3.7 (6H, s), 6.3 (2 H, d), 7.1 (1H, m).

reactant | 1,3-dimethoxybenzene | 0.181 mol, 25.0 g | COC1=CC(=CC=C1)OC | C8H10O2
reactant | n-butyllithium | 0.200 mol, 1.6 molar, 125 ml | C(CCC)[Li]
reactant | chloro(chloromethyl)dimethylsilane | 0.205 mol, 27 ml, 29.4 g | Cl[Si](C)(C)CCl | C3H8Cl2Si
reactant | water | O | H2O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Chloromethyl(2,6-dimethoxyphenyl)dimethylsilane | 37.0 g, 84% | ClC[Si](C)(C)C1=C(C=CC=C1OC)OC | C11H17ClO2Si
